US05708008
5-(1,2,3,4-tetrahydronaphth-1-oyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole with 16.2 mg (0.10 mMol) 1,2,3,4-tetrahydro-1-naphthoic acid at 70° C., 16.2 mg (84%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 1,2,3,4-tetrahydro-1-naphthoic acid | 0.10 mMol, 16.2 mg | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
product | 5-(1,2,3,4-tetrahydronaphth-1-oyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | C1(CCCC2=CC=CC=C12)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C25H29N3O
